US20010018444A1
(1R, 2R, 3S)-2-ethylthiomethyl-3-(3,4-dichlorophenyl)tropane
To a cold (0° C.) solution of ethanethiol (0.5 ml) in dimethylformamide (30 mL) was added sodium hydride (60%, 0.27 g). When the evolution of hydrogen had ceased (1R, 2R, 3S)-2-tosylmethyl-3-(3,4dichlorophenyl)tropane (2.0 g, 4.4 mmol) in dimethylformamide (20 ml) was added. The mixture was stirred at 0° C. for 25 min. The reaction mixture was heated at 100° C. for 5 days. The reaction was cooled to ambient temperature and poured into a mixture of water (500 ml) and ether (100 ml). The phases were separated and the aqueous phase was extracted once more with ether (100 ml). The ether phase was evaporated and the residue was dissolved in ether (75 ml) and washed with water (2×400 ml), dried over MgSO4 and evaporated to dryness. Yield: 1.4 g. of the tite compound. The crude product was purified by column chromatography on silica gel using a mixture of CH2Cl2/MeOH NH3 (aq) (9:1) +1% NH3 (aq). 0.6 g of the title compound was obtained as an oil.

reactant | ethanethiol | 0.5 ml | C(C)S | C2H6S
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (1R, 2R, 3S)-2-tosylmethyl-3-(3,4dichlorophenyl)tropane | 4.4 mmol, 2.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C22H25Cl2NO2S
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | (1R, 2R, 3S)-2-ethylthiomethyl-3-(3,4-dichlorophenyl)tropane | 0.6 g | C(C)SC[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C17H23Cl2NS
